US08536203B2
A stirred suspension of 1-(3,4-dimethoxy-5-nitro-phenyl)-3-dimethylamino-propen-1-one (0.28 g, 1.0 mmol), 2-(trifluoromethyl)nicotinimidamide (0.283 g, 1.5 mmol) and potassium tert-butoxide (0.17 g, 1.5 mmol) in absolute ethanol (5 mL) was heated to 80° C. in a sealed tube for one hour and then allowed to cool to room temperature. The mixture was poured onto cold water (100 mL) and the resulting precipitate was filtered off, washed with water and dried to give 4-(3,4-dimethoxy-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)pyrimidine, 0.296 g (73%).

reactant | 1-(3,4-dimethoxy-5-nitro-phenyl)-3-dimethylamino-propen-1-one | 1.0 mmol, 0.28 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(C=CN(C)C)=O | C13H16N2O5
reactant | 2-(trifluoromethyl)nicotinimidamide | 1.5 mmol, 0.283 g | FC(C1=C(C(N)=N)C=CC=N1)(F)F | C7H6F3N3
reactant | potassium tert-butoxide | 1.5 mmol, 0.17 g | CC(C)([O-])C.[K+]
reactant | water | 100 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(3,4-dimethoxy-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)pyrimidine | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NC(=NC=C1)C=1C(=NC=CC1)C(F)(F)F | C18H13F3N4O4
